US06448281B1
The tetrazole compound from above (0.752 g, 2.16 mmol) was dissolved in THF (20 mL) and DIEA (0.75 mL, 4.3 mmol) and triphenylchloromethane (trityl chloride, 0.604 g, 2.16 mmol) were added. The reaction was stirred for 1 h at room temperature and then quenched with 1 N NaOH (13 mL, 13 mmol). After stirring overnight at room temperature, the reaction mixture was cooled in ice and acidified to pH 34 with 1 N HCl. The product was extracted into EtOAc (50 mL), washed with brine and the solution dried (Na2SO4). Evaporation of the solvent gave a yellow residue that was purified by passing through a pad of silica gel using EtOAc as eluent. The product was then dissolved in TBME (5 mL) and hexane (10 mL) was added. The precipitated material was collected by filtration and dried to give the desired 4-tetrazolyl-L-phenylalanine free acid as a white solid (0.784 g).

reactant | tetrazole | N1N=NN=C1 | CH2N4
reactant | DIEA | 4.3 mmol, 0.75 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | triphenylchloromethane | 2.16 mmol, 0.604 g | C1(=CC=CC=C1)C(Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | NaOH | 13 mmol, 1 N, 13 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-tetrazolyl-L-phenylalanine | 0.784 g | N1N=NN=C1C1=CC=C(C[C@H](N)C(=O)O)C=C1 | C10H11N5O2
